US06686347B2
1-[(2,6-Dimethyl-pyrimidin-4-yl)-amino]-4-(4-pyridyl-methyl)-phthalazine
To a suspension of 308 mg (2.5 mMol) of 4-amino-2,6-dimethyl-pyrimidine and 694 mg (2.0 mMol) of 1-iodo-4-(4-pyridyl-methyl)-phthalazine in 20 ml of toluene, 415 mg (3.0 mMol) of K2CO3 and 231 mg (0.20 mMol) of tetrakis-(triphenylphosphin)-palladium are added, and the mixture is stirred during 1 h at RT and then 17 h at 110° C. The hot reaction mixture is filtrated, the remaining solid washed out with toluene and petrol ether and discarded. From the filtrate, product crystallizes after cooling. Filtration, washing with toluene/petrol ether and recrystallization from boiling dioxane yields the title compound: m.p 232-233° C.; An. calc.(C20H18N6·0.10 H2O) C, 69.79%; H, 5.33%; N, 24.42%; H2O, 0.52%; An. meas. C, 69.78%; H, 5.32%; N, 24.20%; H2O, 0.5%; FAB-MS (M+H)+=343.

reactant | 4-amino-2,6-dimethyl-pyrimidine | 2.5 mMol, 308 mg | NC1=NC(=NC(=C1)C)C | C6H9N3
reactant | 1-iodo-4-(4-pyridyl-methyl)-phthalazine | 2.0 mMol, 694 mg | IC1=NN=C(C2=CC=CC=C12)CC1=CC=NC=C1 | C14H10IN3
reactant | K2CO3 | 3.0 mMol, 415 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis-(triphenylphosphin)-palladium | 0.20 mMol, 231 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 1-[(2,6-Dimethyl-pyrimidin-4-yl)-amino]-4-(4-pyridyl-methyl)-phthalazine | CC1=NC(=CC(=N1)NC1=NN=C(C2=CC=CC=C12)CC1=CC=NC=C1)C | C20H18N6
